US09238639B2
B) 5-Chloro-2-fluoro-1-methoxy-3-(methylsulfanyl)benzene
To a mixture of 4-chloro-1-fluoro-2-methoxybenzene (2.0 g) and THF (dry) (100 mL) was added sec-butyllithium (1.04 mol/L cyclohexane solution, 23.95 mL) dropwise over a period of 45 min at −78° C. After stirring at −78° C. for 30 min, to the mixture was added dimethyl disulfide (2.468 mL) at the same temperature. The mixture was stirred at −78° C. for 1.5 h under argon atmosphere. The mixture was quenched with saturated aqueous NH4Cl at −78° C. and extracted with EtOAc. The organic layer was washed with brine, dried over MgSO4, and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give a solid. The solid was washed with hexane to give the title compound (1.77 g).

reactant | 4-chloro-1-fluoro-2-methoxybenzene | 2.0 g | ClC1=CC(=C(C=C1)F)OC | C7H6ClFO
reactant | sec-butyllithium | 1.04 mol/L, 23.95 mL | C(C)(CC)[Li]
reactant | dimethyl disulfide | 2.468 mL | CSSC | C2H6S2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 5-Chloro-2-fluoro-1-methoxy-3-(methylsulfanyl)benzene | 1.77 g | ClC=1C=C(C(=C(C1)OC)F)SC | C8H8ClFOS
